* C:\P3_Engineering\Design Competition\Design-comp-ECSE-p3-group-9\Hardware\LTspice files\Photodiode-cct.asc
R1 N007 5V 200Meg
C1 N007 5V 4p
I1 5V N007 10n
C2 5V 0 100n
R2 N007 0 100k
XU1 N007 N001 5V 0 N002 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 N002 N001 2k
R4 N001 0 1k
C3 N002 N001 56p
XU2 N002 N003 5V 0 N004 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU3 N006 Vbias 5V 0 N005 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU4 N009 N008 5V 0 N008 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 5V 0 5
R5 N009 5V 10k
R6 0 N009 8.2k
C4 N009 0 1.5n
C5 Vbias 0 100n
R7 Vbias N008 10
R8 N003 0 1k
R9 N004 N003 20k
C6 N004 N003 12p
R10 N005 N006 10k
R11 N006 N004 1k
R12 Out N005 82k
C7 Out 0 10n
* Photodiode into a current to volatge conversion into an amplyfying/filtering\ninto another amplyfying/filtering into a comparator and then more filtering\nVbias to go into comparator
.tran 0 1 0 1m
* Photodiode detecting cct
.lib UniversalOpAmp2.lib
.backanno
.end
